US07183306B2
A suspension of 5-[4-(benzyloxy)phenyl]-3-hydroxy-1-(4-methoxyphenyl)-1H-pyrazole (1.5 g), 1-bromo-2-methylpropane (2.76 g) and anhydrous potassium carbonate (1.67 g) in DMF (10 ml) was added stirred at 100° C. for 1 hour. The mixture was poured into ice water and extracted with AcOEt. The organic layer was washed with H2O, saturated aqueous sodium chloride solution, dried over magnesium sulfate, and concentrated invacuo. The residue was purified by silica gel column chromatography eluted with AcOEt/n-hexane=30% to give 5-[4-(benzyloxy)phenyl]-3-isobutoxy-1-(4-methoxyphenyl)-1H-pyrazole (1.64 g) as a solid.

reactant | 5-[4-(benzyloxy)phenyl]-3-hydroxy-1-(4-methoxyphenyl)-1H-pyrazole | 1.5 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=CC(=NN1C1=CC=C(C=C1)OC)O | C23H20N2O3
reactant | 1-bromo-2-methylpropane | 2.76 g | BrCC(C)C | C4H9Br
reactant | potassium carbonate | 1.67 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 5-[4-(benzyloxy)phenyl]-3-isobutoxy-1-(4-methoxyphenyl)-1H-pyrazole | 1.64 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=CC(=NN1C1=CC=C(C=C1)OC)OCC(C)C | C27H28N2O3
